US07632839B2
Step 5: 2-(1-(R,S)-azido-2-methylpropyl)-3-benzylpyrido[3,4-d]pyrimidin-4(3H)-one (1-6)
To a solution of sodium azide (1.41 g, 21.7 mmol) in DMF (12 mL) was added 3-benzyl-2-(1-bromo-2-methylpropyl)pyrido[3,4-d]pyrimidin-4(3H)-one (5.4 g, 14.50 mmol) in DMF (12 mL). The reaction was heated to 65° C. for 1.5 h, and then the solution was cooled to room temperature. The reaction contents were poured into a separatory funnel filled with ether and ice water. The organic solution was washed with brine and dried over sodium sulfate. Filtration and concentration afforded the title compound as a brown oil. 1H NMR (500 MHz, CDCl3) δ 0.61 (d, J=6.5 Hz, 3H), 1.09 (d, J=6.5 Hz, 3H), 2.67-2.73 (m, 1H), 3.71 (d, J=10 Hz, 1H), 5.10 (d, J=16.5 Hz, 1H), 5.83 (d, J=16 Hz, 1H), 7.16 (d, J=8 Hz, 2H), 7.32-7.38 (m, 3H), 8.12 (d, J=6.5 Hz, 1H), 8.75 (d, J=5.5 Hz, 1H), 9.13 (s, 1H). MS [M+H] C18H18N6O=335.1.

reactant | sodium azide | 21.7 mmol, 1.41 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-benzyl-2-(1-bromo-2-methylpropyl)pyrido[3,4-d]pyrimidin-4(3H)-one | 14.50 mmol, 5.4 g | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C=CN=C2)C(C(C)C)Br | C18H18BrN3O
reactant | ether | CCOCC | C4H10O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 2-(1-(R,S)-azido-2-methylpropyl)-3-benzylpyrido[3,4-d]pyrimidin-4(3H)-one | N(=[N+]=[N-])C(C(C)C)C=1N(C(C2=C(N1)C=NC=C2)=O)CC2=CC=CC=C2 | C18H18N6O
